US06528504B2
(S)-1-(4-dimethylaminophenethyl)-3-(4-nitrobenzoyloxy) pyrrolidine (1.00 g, 2.70 mmol) was dissolved in methanol (20 ml), tetrahydrofuran (20 ml) and water (10 ml). 4M-LiOH (3 ml) was added dropwise in the obtained solution, and they were stirred at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and the residue was distributed in water and ether. The organic layer was dried and the solvent was evaporated under reduced pressure to obtain (S)-1-(4-dimethylaminophenethyl)-3-hydroxypyrrolidine in the form of a light yellow solid (320 mg, 62%).

reactant | (S)-1-(4-dimethylaminophenethyl)-3-(4-nitrobenzoyloxy) pyrrolidine | 2.70 mmol, 1.00 g | CN(C1=CC=C(CCN2C[C@H](CC2)OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1)C | C21H25N3O4
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | water | 10 ml | O | H2O
reactant | LiOH | 3 ml | [Li+].[OH-]
solvent | methanol | 20 ml | CO | CH4O
product | (S)-1-(4-dimethylaminophenethyl)-3-hydroxypyrrolidine | CN(C1=CC=C(CCN2C[C@H](CC2)O)C=C1)C | C14H22N2O
